US06515134B1
The thus-obtained (R)-2-chloro-1-pyridin-3-ylethan-1-ol was dissolved in a methanolic hydrochloric acid solution, methyl tert-butyl ether was then gradually added drop wise, and the mixture was stirred at room temperature for 1 hour. The resulting white precipitate was filtered off to give 1.04 g of (R)-2-chloro-1-pyridin-3-ylethan-1-ol hydrochloride as white crystals. The optical purity was 99.7% ee.

reactant | (R)-2-chloro-1-pyridin-3-ylethan-1-ol | ClC[C@H](O)C=1C=NC=CC1 | C7H8ClNO
solvent | hydrochloric acid | Cl | ClH
solvent | methyl tert-butyl ether | C(C)(C)(C)OC | C5H12O
product | (R)-2-chloro-1-pyridin-3-ylethan-1-ol hydrochloride | 1.04 g | Cl.ClC[C@H](O)C=1C=NC=CC1 | InChI=1S/C7H8ClNO.ClH/c8-4-7(10)6-2-1-3-9-5-6;/h1-3,5,7,10H,4H2;1H/t7-;/m0./s1
